US05475042
6-Chloro-2,4,8,10-tetra-tert-butyl-12H-dibenzo[d,g][1,3,2]dioxaphosphocin
To a solution of 25.0 g (0.059 mol) of 2,2'-methylenebis(4,6-di-tert-butylphenol) and 0.57 mL (5.9 mmol) of 1-methyl-2-pyrrolidinone in 275 mL of toluene at ambient temperature is added dropwise 5.16 mL (0.059 mol) of phosphorus trichloride. After the addition is complete, the reaction mixture is refluxed for eight hours. After cooling the mixture to ambient temperature, the toluene is removed in vacuo and the reaction mass is re, crystallized twice from 250 mL of 98% acetonitrile and 2% toluene (% by volume) in acetonitrile. The recrystallization solvent is removed by decantation and the residue is dried under vacuum to give 21.4 g (79% yield) of the title compound as an off-white solid melting at 227°-230° C.

reactant | 2,2'-methylenebis(4,6-di-tert-butylphenol) | 0.059 mol, 25.0 g | C(C1=C(C(=CC(=C1)C(C)(C)C)C(C)(C)C)O)C1=C(C(=CC(=C1)C(C)(C)C)C(C)(C)C)O | C29H44O2
reactant | 1-methyl-2-pyrrolidinone | 5.9 mmol, 0.57 mL | CN1C(CCC1)=O | C5H9NO
reactant | phosphorus trichloride | 0.059 mol, 5.16 mL | P(Cl)(Cl)Cl | Cl3P
solvent | toluene | 275 mL | C1(=CC=CC=C1)C | C7H8
product | 6-Chloro-2,4,8,10-tetra-tert-butyl-12H-dibenzo[d,g][1,3,2]dioxaphosphocin | 21.4 g, 79% yield | ClP1OC2=C(CC3=C(O1)C(=CC(=C3)C(C)(C)C)C(C)(C)C)C=C(C=C2C(C)(C)C)C(C)(C)C | C29H42ClO2P
